US05990116
6-[2-(2,5-Dimethoxyphenyl)ethyl]-4-ethyl-quinazoline (Process a)
150 mg of 6-[2-(2,5-dimethoxyphenyl)ethynyl]-4-ethyl-quinazoline are dissolved in 10 ml of ethyl acetate. After addition of 20 mg of palladium (10% on charcoal) the mixture is stirred overnight under an atmosphere of hydrogen and subsequently filtered over celite. The filtrate is evaporated in vacuo and the residue crystallised from cylohexane to obtain the title compound as colourless crystals. mp: 74°.

reactant | 6-[2-(2,5-dimethoxyphenyl)ethynyl]-4-ethyl-quinazoline | 150 mg | COC1=C(C=C(C=C1)OC)C#CC=1C=C2C(=NC=NC2=CC1)CC | C20H18N2O2
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
catalyst | palladium | 20 mg | [Pd] | Pd
product | 6-[2-(2,5-Dimethoxyphenyl)ethyl]-4-ethyl-quinazoline | COC1=C(C=C(C=C1)OC)CCC=1C=C2C(=NC=NC2=CC1)CC | C20H22N2O2
